US05654307
A mixture of 4-oxo-7-ethylthio-3H-pyrimido[4,5-d]pyrimidine (1.33 g, 6.7 mmol), P2S5 (1.48 g, 6.6 mmol) and pyridine (15 mL) is refluxed under N2 for 3 h. The pyridine is then stripped under reduced pressure, and the residue is dissolved in NaOH solution (0.5M, 75 mL) and boiled with charcoal. After filtration, the filtrate is neutralized with acetic acid to generate a gold brown solid. Buchner filtration and drying in a vacuum oven affords 4-thiono-7-ethylthio-3H-pyrimido[4,5-d]pyrimidine (1.42 g, 95%). 1H NMR (DMSO) δ 9.47 (1H, s), 8.46 (1H, s), 3.20 (2H, q, J=7.3 Hz), 1.35 (3H, t, J=7.3 Hz).

reactant | 4-oxo-7-ethylthio-3H-pyrimido[4,5-d]pyrimidine | 6.7 mmol, 1.33 g | O=C1NC=NC2=NC(=NC=C21)SCC | C8H8N4OS
reactant | P2S5 | 6.6 mmol, 1.48 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
reactant | charcoal | C | CH4
solvent | NaOH | 0.5M, 75 mL | [OH-].[Na+]
product | 4-thiono-7-ethylthio-3H-pyrimido[4,5-d]pyrimidine | 1.42 g, 95% | S=C1NC=NC2=NC(=NC=C21)SCC | C8H8N4S2
